US06127541
2-Piperidinobenzonitrile
According to a similar manner to that in Reference Example 12, the title compound was synthesized from 2-fluorobenzonitrile and piperidine.

reactant | 2-fluorobenzonitrile | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-Piperidinobenzonitrile | N1(CCCCC1)C1=C(C#N)C=CC=C1 | C12H14N2
